Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
worsening left sided weakness
 
Major Surgical or Invasive Procedure:
N/A
 
History of Present Illness:
Mr ___ is a ___ man originally right handed (lost his right
hand at ___ in an accident) with PMH significant for HTN, HLD and
a prior stroke with resulting left sided weakness who was found
down this morning by his family. He was last seen well last
night. This morning he was found on the ground in his room not
moving his left side. He was taken to ___ where a
___ shows a IPH in the right thalamus extending down into the
midbrain with intraventricular extension. He was transferred to
___ for further management. 

The patient is complaining of headache. 
 
Past Medical History:
- HTN
- HLD 
- recently had an "ear biopsy" concerning for cancer 
- Stroke some ___ years ago with resulting left sided weakness 
- traumatic amputation of the right hand at age ___

 
Social History:
___
Family History:
NC
 
Physical Exam:
DISCHARGE EXAM:
General appearance: frail appearing elderly man.  
HEENT: Sclera are non-injected, medial crusting in epicanthal 
folds. Mucous membranes are moist. 
CV: Heart rate is regular 
Lungs: Breathing comfortably  
Abdomen: soft, non-tender 
Extremities: No Edema. post-amputation of right hand. 
Skin: No visible rashes. Warm and well perfused.

NEUROLOGICAL EXAMINATION:
Mental Status: awake and interactive. mildly dysarthric.  
oriented to name and DOB, not location, year, month, date.  
follows simple motor commands, answers simple questions, often 
inappropriate responses to more abstract questions 

CN- ___ bilaterally, EOMI, face sensation in tact, LEFT facial 
weakness, symmetric, tongue midline

MOT- left arm with some proximal movement to painful stimulus, 
minimal movement at elbow in the plane of the bed, 
Left leg- IP- ___, ham 4+/5, quad, ___, TA-4-, gastroc-4+, 
___
Right side is full throughout.

Sensation- reduced withdrawal to noxious on left

Coordination/Balance- unable to test, no truncal ataxia

 
Pertinent Results:
==============
ADMISSION LABS
==============
___ 06:40PM BLOOD WBC-6.9 RBC-4.25* Hgb-13.1* Hct-39.0* 
MCV-92 MCH-30.8 MCHC-33.6 RDW-13.5 RDWSD-45.1 Plt ___
___ 06:40PM BLOOD Neuts-72.0* Lymphs-18.8* Monos-8.3 
Eos-0.0* Baso-0.6 Im ___ AbsNeut-4.97 AbsLymp-1.30 
AbsMono-0.57 AbsEos-0.00* AbsBaso-0.04
___ 06:40PM BLOOD ___ PTT-26.3 ___
___ 06:40PM BLOOD Glucose-105* UreaN-18 Creat-0.7 Na-140 
K-4.3 Cl-106 HCO3-21* AnGap-17
___ 03:35PM BLOOD CK(CPK)-2187*
___ 09:23PM BLOOD CK(CPK)-1811*
___ 06:40PM BLOOD cTropnT-<0.01
___ 02:14AM BLOOD cTropnT-<0.01
___ 02:14AM BLOOD Calcium-8.9 Phos-3.2 Mg-1.9 Cholest-151
___ 02:14AM BLOOD %HbA1c-5.8 eAG-120
___ 02:14AM BLOOD Triglyc-57 HDL-68 CHOL/HD-2.2 LDLcalc-72
___ 02:14AM BLOOD TSH-1.3
___ 06:54PM BLOOD Lactate-2.1*

============
MICROBIOLOGY
============
URINE CULTURE (Final ___:    NO GROWTH. 

=======
IMAGING
=======
CXR - ___
Slightly increased interstitial markings diffusely bilaterally 
which appears increased compared to the prior study, may be due 
to interstitial pulmonary edema.  No lobar consolidation is 
seen. 

NCHCT - ___
1. New small left parietal subarachnoid hemorrhage. 
2. Possible additional focus of small subarachnoid hemorrhage in 
the left 
frontal lobe versus artifact. 
3. Stable right thalamic intraparenchymal hemorrhage with 
extension into third ventricle, bilateral occipital horns, and 
fourth ventricle. 
4. Stable ventricle size and appearance. 

NCHCT - ___
1. No interval change. 
2. Stable 2.8 x 1.6 cm right thalamic head intraparenchymal 
hematoma with 
interventricular extension and a small amount of surrounding 
edema.  Unchanged mild local mass-effect.  Patent basal 
cisterns. 
3. Stable small focus of left parietal subarachnoid hemorrhage. 
4. Stable chronic findings including periventricular white 
matter small vessel ischemic change and age-appropriate global 
atrophy. 

___ - ___
No significant interval change in right thalamic hematoma, left 
parietal 
subarachnoid hemorrhage and bilateral intraventricular 
hemorrhage.  No new 
hemorrhage. 

NCHCT - ___
1. Stable right thalamic intraparenchymal, intraventricular, and 
left 
frontoparietal subarachnoid hemorrhages as described. 
2. No new hemorrhages identified. 
3.  Please note MRI of the brain is more sensitive for the 
detection of acute infarct.

___ - ___
1. Stable right thalamic intraparenchymal hemorrhage. 
2. Resolution of the subarachnoid hemorrhage and near resolution 
of the 
intraventricular hemorrhage. 
3. No new hemorrhage or acute intracranial process. 

 
Brief Hospital Course:
ICU COURSE ___ - ___
Mr. ___ is a ___ ___ speaking man originally right 
handed (lost his right hand at ___ in an accident) with PMHx 
significant for HTN, HLD, and a prior stroke with resulting left 
sided weakness who was found down on the morning of ___ by his 
family.  NCHCT revealed an IPH in the right thalamus extending 
down into the midbrain with intra-ventricular extension, as well 
as a small amount of L convexity blood. His exam is significant 
for left face, arm and leg weakness and numbness along with 
severe dysarthria. His mental status is poor with waxing and 
waning alertness. Initially, He was at very high risk for 
hydrocephalus and required close monitoring in the ICU. Serial 
NCHCTs were stable however, and the most likely etiology for his 
poor mental status was ultimately felt to be due to poor sleep 
and medication (Seroquel overnight ___.
The Most likely etiology of his bleed is HTN, based on location. 
Most likely etiology for his SAH is trauma, again, based on 
location.

NEURO: R thalamic IPH extending into midbrain w IVE
Repeat NCHCT without interval change or worsening hydrocephalus. 
Continue strict SBP goal 100-140 - on amlodipine 5mg and 
labetolol 200mg TID. Holding ASA, NSAIDs. On SQH.

CV: Off nicardipine drip ___ at 15:00. Anti-hypertensive med 
changes as above.

FEN/GI: Ground diet, nectar thick liquids, meds whole in puree 
and/or with nectar thick liquids, aspiration precautions.

=============================================================
FLOOR COURSE

ON the Neurology Floor ___ Mr. ___ remained 
clinically stable and maintained blood pressure goals less than 
140.  His exam is as documented above.  Incidentally he did have 
an unwitnessed fall out of bed on ___ but repeat CT was 
unchanged.   ASA was held in setting of hemorrhage, to be 
restarted in 1 month.  Per physical therapy recommended acute 
rehab on discharge.

TRANSITIONAL ISSUES:

- BP controlled <140
- OK to restart subcut heparin for DVT prophylaxis while in 
rehab
- Please restart ASA in 1 month, ___ for secondary stroke 
prevention (history of stroke not related to current admission)
- Encourage aggressive BM, was constipated while inpatient

=============================================================
AHA/ASA Core Measures for Intracerebral Hemorrhage  
1. Dysphagia screening before any PO intake? (x) Yes - () No  
2. DVT Prophylaxis administered? (x) Yes - () No  
3. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
4. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
5. Assessment for rehabilitation and/or rehab services 
considered? (x) Yes - () No  
 
Medications on Admission:
 The Preadmission Medication list is accurate and complete.
1. Lovastatin 20 mg ORAL QHS 
2. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. Lovastatin 20 mg ORAL QHS 
2. Amlodipine 10 mg PO DAILY 
3. Artificial Tears Preserv. Free ___ DROP BOTH EYES PRN dry 
eyes 
4. Labetalol 200 mg PO TID 
5. Ranitidine 150 mg PO BID 
6. Heparin 5000 UNIT SC BID 
7. Docusate Sodium 100 mg PO BID 
8. Fleet Enema ___AILY:PRN constipation 
9. Glycerin Supps 1 SUPP PR PRN constipation 
10. Polyethylene Glycol 17 g PO DAILY 
Please restart this medication ___, 1 month after discharge 
from the hospital 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
right thalamic hemorrhage

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.
He is arousable, oriented to self, place.  Inattentive, needs
redirection, not following multi-step commands.  
CN notable for left facial droop.  
Motor exam with minimal LUE movement, some ___ w/d to pain
LLE distally antigravity but proximally weak
Sensory- grimaces to noxious applied to the right not left

 
Discharge Instructions:
 
Dear Mr. ___, 

You were admitted to the ___ on ___ 
with 
after you were found down on the ground by family and 
subsequently found with new left sided weakness caused by an 
acute brain hemorrhage.  We think this was due to high blood 
pressure.  You were briefly in our ICU because you were poorly 
responsive and your blood pressures were too high.  Your blood 
pressures and mental status improved by ___ and you were 
evaluated by physical therapy who recommended continue 
rehabilitation.  Our speech and swallow specialist evaluated you 
and recommended a special thickened liquid diet while you 
recover.

In the future you will need to closely monitor your blood 
pressure and remain on the medications listed below.  Please 
follow up in the neurology clinic as listed.  IF you have any 
worsening neurological symptoms you should return to the 
emergency room immediately. 
 
Followup Instructions:
___